US06667312B2
Using the general method of Example 21 Part D, 2-butyl-1-(2-chloroethyl)-1H-imidazo[4,5-c]quinoline-4-amine (1.44 g, 4.76 mmol) was reacted with sodium thiomethoxide (0.42 g of 95%, 5.71 mmol) to provide 1.4 g of 2-butyl-1-[2-(methylthio)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine as an off-white powder.

reactant | 2-butyl-1-(2-chloroethyl)-1H-imidazo[4,5-c]quinoline-4-amine | 4.76 mmol, 1.44 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCl | C16H19ClN4
reactant | sodium thiomethoxide | 5.71 mmol, 0.42 g | C[S-].[Na+]
product | 2-butyl-1-[2-(methylthio)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.4 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCSC | C17H22N4S
